US04212865
To a 0.33 g. sample of 5-amino-2-nitro-3-phenylbenzofuran is added 1 ml. of acetic anhydride, and the mixture is heated for 5 minutes on a steam bath. About 10 ml. of isopropanol is added, and the mixture is again heated on a steam bath to dissolve the solid. It is then saturated with hot water and cooled to provide yellow needles of 5-acetamido-2-nitro-3-phenylbenzofuran, m.p. 204°-207° C.

reactant | 5-amino-2-nitro-3-phenylbenzofuran | NC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C14H10N2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 5-acetamido-2-nitro-3-phenylbenzofuran | C(C)(=O)NC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H12N2O4
